US05428041
To a solution of N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1H-imidazol-5-yl]-4-fluorobenzamide (0.9 g, 2 mmole) in dimethyl sulfoxide (5 mL) was added potassium carbonate (0.83 g, 3 equiv.) and piperidine (0.51 g, 3 equiv.). The reaction mixture was heated at 145° overnight under nitrogen. The solution was cooled to room temperature, poured into water and extracted with dichloromethane. The organic layer was washed with water and saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under vacuum. The residue was purified by MPLC with 9:1 hexane-ethyl acetate to give two products. N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1-methyl-1H-imidazol-5-yl]-4-(1-piperidinyl) benzamide (160 mg, 15%) was isolated as a white solid: mp 128°-129° ; MS m/e 517 (M+ +H); 1H NMR (CDCl3 /TMS) δ 1.67(m,6H,(CH2)3), 2.93(s,3H,NCH2), 3.33(m,4H,CH2NCH2), 6.43-6.60(m,2H,NH,CH), 6.90)d,2H,J=7, Harom), 7.13-7.20(m,2H,Harom), 7.60-7.73(m,2H,Harom). N-[4,4-bis(trifluoromethyl)-4,5-dihydro-1-methyl-2-[4-(1-piperidinyl)phenyl]-1H-imidazol-5-yl]-4-fluorobenzamide (80 mg, 8%) was isolated as a white solid: mp 123°-124°; MS m/e 517 (M+ +H); 1H NMR (CDCl3 /TMS ( δ 1.67(m,6H,(CH2)3), 3.00(s,3H,NCH3), 3.30(m,4H,CH2NCH2), 6.37(d,1H,CH), 6.60(m,2H,NH), 6.90(d,2H,J=7,Harom), 7.13-7.22(m,2H,Harom), 7.53(d,2H,J=7,Harom), 7.80-7.90(m,2H,Harom).

reactant | N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1H-imidazol-5-yl]-4-fluorobenzamide | 2 mmole, 0.9 g | FC(C1(N=C(NC1NC(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)C(F)(F)F)(F)F | C18H11F8N3O
reactant | potassium carbonate | 0.83 g, 3 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 0.51 g, 3 equiv. | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-[4,4-bis(trifluoromethyl)-2-(4-fluorophenyl)-4,5-dihydro-1-methyl-1H-imidazol-5-yl]-4-(1-piperidinyl) benzamide | 160 mg, 15% | FC(C1(N=C(N(C1NC(C1=CC=C(C=C1)N1CCCCC1)=O)C)C1=CC=C(C=C1)F)C(F)(F)F)(F)F | C24H23F7N4O
